US04481142
9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-5-ol acetate
A mixture of 2.5 g (7.4 mmols) of 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide and 50 ml of acetic anhydride was heated on the steambath for 24 hours. The reaction mixture was concentrated at reduced pressure to dryness and the residue was crystallized from a mixture of methylene chloride and ether to give the crude product, m.p. 197°-198° C. Recrystallization from a mixture of methylene chloride and ether gave the pure product as cream colored prisms, m.p. 200°-201° C.

reactant | 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide | 7.4 mmols, 2.5 g | ClC1=CC2=C(C3=C(C[N+](=C2C2=C(C=CC=C2)F)[O-])C=NC=N3)C=C1 | C18H11ClFN3O
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-5-ol acetate | C(C)(=O)OC1N=C(C2=C(C3=C1C=NC=N3)C=CC(=C2)Cl)C2=C(C=CC=C2)F | C20H13ClFN3O2
